US07402595B2
[Step 1] To a solution (20 ml) of 2-benzoyl-4-bromobenzoic acid (2.0 g) in THF were added 1-(4-methanesulfonylbenzylamino)hexan-2-ol (1.9 g), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (1.9 g), 1-hydroxy-1H-benzotriazole monohydrate (1.0 g), acetonitrile (20 ml) and triethylamine (5 ml) at room temperature. The mixture was stirred at room temperature for 12 hrs. and concentrated under reduced pressure. Saturated aqueous sodium hydrogen carbonate was added to the residue and the mixture was extracted with ethyl acetate. The organic layer was washed with water, 1N-hydrochloric acid, water, saturated aqueous sodium hydrogen carbonate, water and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane-hexane:ethyl acetate=1:1) to give 2-benzoyl-4-bromo-N-(2-hydroxyhexyl)-N-(4-methanesulfonylbenzyl) benzamide (2.57 g).

reactant | 2-benzoyl-4-bromobenzoic acid | 20 ml, 2.0 g | C(C1=CC=CC=C1)(=O)C1=C(C(=O)O)C=CC(=C1)Br | C14H9BrO3
reactant | 1-(4-methanesulfonylbenzylamino)hexan-2-ol | 1.9 g | CS(=O)(=O)C1=CC=C(CNCC(CCCC)O)C=C1 | C14H23NO3S
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.9 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxy-1H-benzotriazole monohydrate | 1.0 g | O.ON1N=NC2=C1C=CC=C2
solvent | THF | C1CCOC1 | C4H8O
solvent | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2-benzoyl-4-bromo-N-(2-hydroxyhexyl)-N-(4-methanesulfonylbenzyl) benzamide | 2.57 g | C(C1=CC=CC=C1)(=O)C1=C(C(=O)N(CC2=CC=C(C=C2)S(=O)(=O)C)CC(CCCC)O)C=CC(=C1)Br | C28H30BrNO5S
